US06448337B1
In a glass polymerization bottle were charged 80 g isooctyl acrylate (IOA), 18 g isobornyl acrylate (IBA), 2 g vinyldimethylazlactone (VDM), 100 g ethyl acetate, 0.5 g benzoyl peroxide and 0.04 g carbon tetrabromide. The bottle was purged with nitrogen, sealed and tumbled in a water bath maintained at 60° C. for 12 hours to produce a IOA/IBA/VDM terpolymer. The polymer was isolated by precipitation in isopropanol and dried under vacuum.

reactant | isooctyl acrylate | 80 g | C(C=C)(=O)OCCCCCC(C)C | C11H20O2
reactant | isobornyl acrylate | 18 g | C[C@]12CC[C@@H](C1(C)C)CC2C(=C)C(=O)[O-]
reactant | benzoyl peroxide | 0.5 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | carbon tetrabromide | 0.04 g | C(Br)(Br)(Br)Br | CBr4
solvent | ethyl acetate | 100 g | C(C)(=O)OCC | C4H8O2
product | IOA IBA | C(C=C)(=O)OCCCCCC(C)C.C[C@]12CC[C@@H](C1(C)C)CC2C(=C)C(=O)[O-] | InChI=1S/C13H20O2.C11H20O2/c1-8(11(14)15)10-7-9-5-6-13(10,4)12(9,2)3;1-4-11(12)13-9-7-5-6-8-10(2)3/h9-10H,1,5-7H2,2-4H3,(H,14,15);4,10H,1,5-9H2,2-3H3/p-1/t9-,10?,13-;/m1./s1
